datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[O:15][H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[H:9][O:15][H:16],-0.14644
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17]([C:18](=[C:19]([H:23])[H:24])[H:22])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[C:17]([C:18](=[C:19]([H:23])[H:24])[H:22])([H:20])[H:21])[H:7],45.9403
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[Cl:15]>>[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4][c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[H:12][Cl:15],-1.16319
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10]([S:11][H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:10]([S:11][H:14])([H:12])[H:13],15.0624
[C:0]([O:1][C:2]([H:6])([H:7])[H:8])([H:3])([H:4])[H:5].[O:9][C:10](=[O:11])[H:12]>>[C:0]([O:1][C:2]([H:6])([H:7])[H:8])([H:4])[H:5].[H:3][O:9][C:10](=[O:11])[H:12],74.01496
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[H:13])([H:11])[H:12].[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[H:23])[H:13])([H:11])[H:12],15.4808
[C:0](#[C:1][C:2](=[C:3]([C:4]#[C:5][H:10])[C:6](=[C:7]([H:12])[H:13])[H:11])[H:9])[H:8].[H:14]>>[C:0](#[C:1][C:2]([C:3]([C:4]#[C:5][H:10])([C:6](=[C:7]([H:12])[H:13])[H:11])[H:14])[H:9])[H:8],12.9704
[C:0](=[C:1]([C:2](=[O:3])[H:7])[H:6])([H:4])[H:5].[O:8][O:9]>>[C:0](=[C:1]([C:2]=[O:3])[H:6])([H:4])[H:5].[H:7][O:8][O:9],170.2888
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][C:17]([H:18])([H:19])[H:20],31.689616
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([H:19])[H:20])[H:18])=[C:8]([C:9]([H:21])([H:22])[H:23])[C:10]#[C:11][H:24])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12]>>[C:0](#[C:1][C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([C:6](=[C:7]([H:19])[H:20])[H:18])[C:8]1([C:9]([H:21])([H:22])[H:23])[C:10]#[C:11][H:24])[H:12],81.839
[C:0]([C:1]([S:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[S:9]([C:10]([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])[H:18])[H:17]>>[C:0]([C:1]([S:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][C:10]([S:9][H:17])([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])[H:18],48.5344
[C:0]([C:1]([C:2]([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([H:12])[C:2]([H:13])([H:14])[C:3]12[C:4]([H:15])[C:5]([H:16])=[C:6]([H:17])[C:7]([H:18])=[C:8]2[H:19])([H:9])([H:10])[H:11],66.46284
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:7])[H:8]>>[C:0]([C:1](=[C:2]([H:10])[H:11])[H:9])([H:7])([H:8])[H:14].[C:3](=[C:4]([C:5](=[C:6]([H:17])[H:18])[H:16])[H:15])([H:12])[H:13],205.0
[C:0](=[C:1]([C:2](=[C:3]1[C:4]([H:11])[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:10])[H:9])([H:7])[H:8]>>[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[C:6]([H:14])[H:15])[H:10])[H:9])([H:7])[H:8],133.888
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7]([C:8]([H:14])([H:15])[H:16])([S:9][H:17])[H:13])([H:10])([H:11])[H:12]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:13])[H:3].[C:6]([C:7]([C:8]([H:14])([H:15])[H:16])[S:9][H:17])([H:10])([H:11])[H:12],46.6098
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:23][H:24]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:14][O:23][H:24],-5.485224
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[S:15]=[C:16]([C:17]([S:18][H:21])[H:20])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:17]([C:16](=[S:15])[H:19])([S:18][H:21])[H:20],69.2034
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3](=[O:4])[C:5]([O:6])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]=[O:4])[H:10])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:14])[H:15],46.35872
[C:0]([C:1]([O:2][H:7])=[S:3])([H:4])([H:5])[H:6].[H:8]>>[C:0]([C:1]([O:2][H:7])([S:3])[H:8])([H:4])([H:5])[H:6],-5.27184
